* /home/fossee/updatedexamples/4_bit_jk_ff/4_bit_jk_ff.cir

* u3  net-_u1-pad4_ net-_u1-pad6_ net-_u1-pad5_ net-_u2-pad8_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ d_jkff
v1 net-_u1-pad1_ gnd  dc 5
v3 net-_u1-pad3_ gnd  dc 5
v4  net-_u4-pad2_ gnd 0
v2  in gnd pulse(0 5 0.1m 0.1m 0.1m 20m 40m)
* u5  net-_u3-pad7_ net-_u3-pad7_ net-_u1-pad5_ net-_u2-pad7_ net-_u4-pad6_ net-_u5-pad6_ net-_u5-pad7_ d_jkff
* u7  net-_u6-pad3_ net-_u6-pad3_ net-_u1-pad5_ net-_u2-pad6_ net-_u4-pad7_ net-_u7-pad6_ net-_u7-pad7_ d_jkff
* u10  net-_u10-pad1_ net-_u10-pad1_ net-_u1-pad5_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ d_jkff
* u6  net-_u5-pad7_ net-_u3-pad7_ net-_u6-pad3_ d_and
* u8  net-_u7-pad7_ net-_u6-pad3_ net-_u10-pad1_ d_and
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u3-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u10-pad5_ adc_bridge_4
v10  net-_u4-pad3_ gnd 0
v11  net-_u4-pad4_ gnd 0
v9  net-_u4-pad1_ gnd 0
v8  net-_u2-pad2_ gnd 0
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u10-pad4_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ adc_bridge_4
v6  net-_u2-pad3_ gnd 0
v7  net-_u2-pad4_ gnd 0
v5  net-_u2-pad1_ gnd 0
* u1  net-_u1-pad1_ in net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ adc_bridge_3
* u9  net-_u3-pad6_ net-_u5-pad6_ net-_u7-pad6_ net-_u10-pad6_ d1 d2 d3 d4 dac_bridge_4
r1  d1 gnd 1k
r2  d2 gnd 1k
r3  d3 gnd 1k
r4  d4 gnd 1k
* u11  net-_u10-pad7_ gnd dac_bridge_1
* u12  d1 plot_v1
* u14  d4 plot_v1
* u15  d3 plot_v1
* u13  d2 plot_v1
a1 net-_u1-pad4_ net-_u1-pad6_ net-_u1-pad5_ net-_u2-pad8_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ u3
a2 net-_u3-pad7_ net-_u3-pad7_ net-_u1-pad5_ net-_u2-pad7_ net-_u4-pad6_ net-_u5-pad6_ net-_u5-pad7_ u5
a3 net-_u6-pad3_ net-_u6-pad3_ net-_u1-pad5_ net-_u2-pad6_ net-_u4-pad7_ net-_u7-pad6_ net-_u7-pad7_ u7
a4 net-_u10-pad1_ net-_u10-pad1_ net-_u1-pad5_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ u10
a5 [net-_u5-pad7_ net-_u3-pad7_ ] net-_u6-pad3_ u6
a6 [net-_u7-pad7_ net-_u6-pad3_ ] net-_u10-pad1_ u8
a7 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ ] [net-_u3-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u10-pad5_ ] u4
a8 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ ] [net-_u10-pad4_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] u2
a9 [net-_u1-pad1_ in net-_u1-pad3_ ] [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
a10 [net-_u3-pad6_ net-_u5-pad6_ net-_u7-pad6_ net-_u10-pad6_ ] [d1 d2 d3 d4 ] u9
a11 [net-_u10-pad7_ ] [gnd ] u11
* Schematic Name:                             d_jkff, NgSpice Name: d_jkff
.model u3 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, NgSpice Name: d_jkff
.model u5 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, NgSpice Name: d_jkff
.model u7 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, NgSpice Name: d_jkff
.model u10 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-03 100e-00 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d1)
plot v(d4)
plot v(d3)
plot v(d2)
.endc
.end
